US08212034B2
Preparation of 3-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl]-(2E)-propenal
3-[4-(4-Fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl](2E)-propen-1-ol-(5 g) was dissolved in toluene (50 ml) at 25° C. and manganese dioxide (20 g) was added to it. The reaction mixture was stirred for 5 h at 25° C. After completion of the reaction, reaction mixture was filtered through hyflo and toluene was evaporated under reduced pressure at 40° C. to obtain the product as a semi solid. The product was further crystallized from hexane-ethyl acetate (20 ml, 9:1 v/v) (Yield: 4.8 g).

reactant | 3-[4-(4-Fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl](2E)-propen-1-ol- | 5 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C/C=C/O)C(C)C)N(S(=O)(=O)C)C | C18H22FN3O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 20 g | [O-2].[O-2].[Mn+4]
product | 3-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl]-(2E)-propenal | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/C=O)C(C)C)N(S(=O)(=O)C)C | C18H20FN3O3S
